US07655643B2
(3S)-3-{[(Benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl) -amino]hexanoyl methyl carbonate
2 g (5.26 mmol) of (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl) amino]hexanoic acid and 0.56 g (5.73 mmol) of triethylamine are dissolved in 30 ml of THF under argon and cooled to 0° C. 0.59 g (5.73 mmol) of ethyl chloroformate are added, and the mixture is stirred at 0° C. for 3 hours. The reaction mixture is filtered through kieselguhr, and the filtrate is reacted directly.

reactant | (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl) amino]hexanoic acid | 5.26 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CC(=O)O)CCCNC(=O)OC(C)(C)C | C19H28N2O6
reactant | triethylamine | 5.73 mmol, 0.56 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.73 mmol, 0.59 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (3S)-3-{[(Benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl) -amino]hexanoyl methyl carbonate | C(OC(C[C@H](CCCNC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O)(OC)=O | C21H30N2O8
